US05654316
3,4-Dichloro-β-[2-[[(2-methoxyphenyl)methyl]methylamino]-2-oxoethyl]benzenepropanoic acid
3-(3,4-Dichlorophenyl)glutaric anhydride (5.9 g) in CH2Cl2 (80 mL) at 0° C. was treated sequentially with N-methyl-N-[2-methoxyphenyl)methyl]amine (3.8 g), triethylamine (3.5 mL) and N,N-dimethylaminopyridine (278 mg). The mixture was stirred at 0° C. for two hours then allowed to warm to room temperature and stirred for 20 hours. The reaction mixture was washed with 1N HCl (1×100 mL) and brine (1×100 mL). The organic layers were dried over MgSO4, filtered and concentrated to afford the title compound (9.3 g).

reactant | 3-(3,4-Dichlorophenyl)glutaric anhydride | 5.9 g | ClC=1C=C(C=CC1Cl)C1CC(=O)OC(C1)=O | C11H8Cl2O3
reactant | triethylamine | 3.5 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | 3,4-Dichloro-β-[2-[[(2-methoxyphenyl)methyl]methylamino]-2-oxoethyl]benzenepropanoic acid | 9.3 g | ClC=1C=C(C=CC1Cl)C(CC(=O)O)CC(=O)N(C)CC1=C(C=CC=C1)OC | C20H21Cl2NO4
